US09353107B2
Step-ii: N-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methane sulfonamide (95 mg, 0.14 mmol) was hydrolyzed by lithium hydroxide (18 mg, 0.42 mmol) in THF/methanol/water (2/2/1 ml) to yield 38 mg (52.1% yield) of the titled compound after purification by preparative TLC (Silicagel-1000 micron) using 5% methanol in chloroform as eluent. 1H NMR (DMSO-d6, 300 MHz): δ 11.8 (s, 1H), 8.95 (s, 1H), 8.559-8.552 (d, 1H), 8.42 (s, 1H), 8.367-8.361 (d, 1H), 7.99 (s, 1H), 7.77-7.76 (d, 1H), 7.38 (s, 1H), 7.35-7.32 (m, 2H), 7.20-7.10 (m, 1H), 6.97-6.95 (d, 2H), 5.39 (s, 2H), 3.94 (s, 3H), 2.96 (s, 3H). MS: m/z=510.1 (M+1), HPLC: 87.42% in method B.

reactant | N-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methane sulfonamide | 0.14 mmol, 95 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)NS(=O)(=O)C)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C32H27F2N5O5S2
reactant | lithium hydroxide | 0.42 mmol, 18 mg | [OH-].[Li+]
solvent | THF methanol water | 1 ml | C1CCOC1.CO.O
product | N-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)methanesulfonamide | 38 mg, 52.1% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC(=C(C=C3)NS(=O)(=O)C)OC)C=C(C1)F | C25H21F2N5O3S
